US07491716B2
1-iodo-2-oxo-2-(morpholin-4yl)ethane
Dissolve 1-chloro-2-oxo-2-(morpholin-4-yl)ethane (7.0 g, 42.8 mmol) and sodium iodide (8.0 g, 53.4 mmol) in 2-butanone (150 mL) and reflux for 3 hours under nitrogen. Dilute with ethyl acetate (200 mL), filter, concentrate under reduced pressure and chromatograph on flash silica using neat ethyl acetate to obtain 9.4 g (86%) of the title compound as a yellow oil.

reactant | 1-chloro-2-oxo-2-(morpholin-4-yl)ethane | 42.8 mmol, 7.0 g | ClCC(N1CCOCC1)=O | C6H10ClNO2
reactant | sodium iodide | 53.4 mmol, 8.0 g | [I-].[Na+]
solvent | 2-butanone | 150 mL | CC(CC)=O | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-iodo-2-oxo-2-(morpholin-4yl)ethane | 9.4 g, 86% | ICC(N1CCOCC1)=O | C6H10INO2
